US04442278
One mole of cyanuric chloride was treated with phenylmagnesium bromide as described in Step I of Example I. The resulting reaction product (10.0 g, 0.044 mole) in CHCl3 (100 ml) was stirred in a 250 ml 3-neck round bottom flask while m-aminophenylacetylene (10.5 g, 0.09 mole) was added dropwise with cooling. To this mixture was added K2CO3 (12.4 g, 0.09 mole) and water (20 ml). The organic layer was separated, dried, and the solvent evaporated. The residue was triturated in benzene and dried to give 6-phenyl-2,4-bis(3-ethynylphenylamino)-s-triazine a compound that melted at 210° C. with polymerization. Thermo-gravimetric analysis showed that the polymer was stable to 425° C.

reactant | cyanuric chloride | One mole | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | m-aminophenylacetylene | 0.09 mole, 10.5 g | NC=1C=C(C=CC1)C#C | C8H7N
reactant | K2CO3 | 0.09 mole, 12.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 20 ml | O | H2O
product | 6-phenyl-2,4-bis(3-ethynylphenylamino)-s-triazine | C1(=CC=CC=C1)C1=NC(=NC(=N1)NC1=CC(=CC=C1)C#C)NC1=CC(=CC=C1)C#C | C25H17N5
